US07186731B2
Ethyl (3S)-2-azabicyclo[2.2.2]octane-3-carboxylate
A solution of ethyl (1S,3S,4R)-2-[(1R)-1-phenylethyl]-2-azabicyclo[2.2.2]oct-5-ene-3-carboxylate (1.1 g) in ethanol (20 mL) was hydrogenated under H2 atmosphere (4 atm) for 2 hrs. After removal of the catalyst by filtration, the solvent was removed in vacuo to give the target compound as a colorless oil (700 mg).

reactant | ethyl (1S,3S,4R)-2-[(1R)-1-phenylethyl]-2-azabicyclo[2.2.2]oct-5-ene-3-carboxylate | 1.1 g | C1(=CC=CC=C1)[C@@H](C)N1[C@@H]2C=C[C@H]([C@H]1C(=O)OCC)CC2 | C18H23NO2
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | Ethyl (3S)-2-azabicyclo[2.2.2]octane-3-carboxylate | 700 mg | C12N[C@@H](C(CC1)CC2)C(=O)OCC | C10H17NO2
